US07534273B2
Stage 1: Synthesis of (4E)-2-(1,3-benzothiazol-2-yl)-4-{[4-(dimethylamino)phenyl]-methylidene}-5-methyl-2,4-dihydro-3H-pyrazol-3-one
1 g (4.32 mmol) of 2-(1,3-benzothiazol-2-yl)-5-methyl-2,4-dihydro-3H-pyrazol-3-one and 1.93 g (12.96 mmol) of 4-(dimethylamino)benzaldehyde are stirred under reflux with the addition of 3 ml of piperidine in absolute ethanol for 2 hours. The mixture is then diluted with water and the bright red precipitate is filtered off, then washed with water and a small amount of cold methanol and dried under reduced pressure.

reactant | 2-(1,3-benzothiazol-2-yl)-5-methyl-2,4-dihydro-3H-pyrazol-3-one | 4.32 mmol, 1 g | S1C(=NC2=C1C=CC=C2)N2N=C(CC2=O)C | C11H9N3OS
reactant | 4-(dimethylamino)benzaldehyde | 12.96 mmol, 1.93 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | (4E)-2-(1,3-benzothiazol-2-yl)-4-{[4-(dimethylamino)phenyl]-methylidene}-5-methyl-2,4-dihydro-3H-pyrazol-3-one | S1C(=NC2=C1C=CC=C2)N2N=C(\C(\C2=O)=C/C2=CC=C(C=C2)N(C)C)C | C20H18N4OS
